US04666923
7-Hydrazinocarbonyl-7-methyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
A solution of 1 g. (2.7 mmol) 7-ethoxycarbonyl-7-methyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one hydrochloride in 30 ml. ethanol is stirred at 80° C. for about 8 hours with 6 ml. hydrazine hydrate. Subsequently, the reaction mixture is filtered with suction, the product obtained is boiled up with a solution of 1000 ml. methanol and 500 ml. methylene chloride, concentrated somewhat and the crystals obtained are filtered off with suction, washed with methanol and dried. Yield: 0.6 g. (70% of theory); m.p.>300° C.

reactant | 7-ethoxycarbonyl-7-methyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one hydrochloride | 2.7 mmol | Cl.C(C)OC(=O)C1(C(NC2=CC3=C(N=C(N3)C3=CC=NC=C3)C=C21)=O)C
reactant | ethanol | C(C)O | C2H6O
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | 7-Hydrazinocarbonyl-7-methyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | N(N)C(=O)C1(C(NC2=CC3=C(N=C(N3)C3=CC=NC=C3)C=C21)=O)C | C16H14N6O2
